US05116404
8.7 g of ethyl 3-amino-3-(2-chlorophenyl)-2-propenoate was added dropwise to a 40 ml dimethylformamide of 1.8 g of sodium hydride (purity: 55%) with stirring at 0° C. The solution was stirred at room temperature for 15 minutes, cooled to 0° C. and added dropwise with a 20 ml dimethylformamide solution of 7.2 g of ethyl 4-methoxymethoxyphenylcarbamate. After stirring the solution at 120° C. for 2 hours, the solvent was distilled away under reduced pressure. The residue was dissolved with 200 ml of water and washed with diethyl ether. The obtained aqueous layer was added into a mixed solution of 50 ml of concentrated hydrochloric acid and 150 g of ice. The precipitated crystals were filtered out and dried under reduced pressure to obtain 10.0 g of 3-(4-methoxymethoxyphenyl)-6-(2-chlorophenyl)-2,4(1H,3H)-pyrimidinedione.

reactant | ethyl 3-amino-3-(2-chlorophenyl)-2-propenoate | 8.7 g | NC(=CC(=O)OCC)C1=C(C=CC=C1)Cl | C11H12ClNO2
reactant | sodium hydride | 1.8 g | [H-].[Na+]
reactant | ethyl 4-methoxymethoxyphenylcarbamate | 7.2 g | COCOC1=CC=C(C=C1)NC(OCC)=O | C11H15NO4
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | 3-(4-methoxymethoxyphenyl)-6-(2-chlorophenyl)-2,4(1H,3H)-pyrimidinedione | 10.0 g | COCOC1=CC=C(C=C1)N1C(NC(=CC1=O)C1=C(C=CC=C1)Cl)=O | C18H15ClN2O4
